US06787543B2
Methyl magnesium bromide in tetrahydrofuran (1M, 36.9 ml) was added into a solution of benzyl (2S)-2-(N-methoxy-N-methylcarbamoyl)-1-pyrrolidinecarboxylate (3.6 g) in tetrahydrofuran (36 ml) under ice-cooling. After being stirred for 2 hours at the same temperature, the reaction mixture was poured into saturated aqueous ammonium chloride, and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography with a mixture of hexane and ethyl acetate (1:1) as an eluent to give benzyl (2S)-2-acetyl-1-pyrrolidinecarboxylate (0.81 g).

reactant | Methyl magnesium bromide | C[Mg]Br
reactant | benzyl (2S)-2-(N-methoxy-N-methylcarbamoyl)-1-pyrrolidinecarboxylate | 3.6 g | CON(C(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)C | C15H20N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1M, 36.9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | benzyl (2S)-2-acetyl-1-pyrrolidinecarboxylate | 0.81 g | C(C)(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
